US07157488B2
5-(4-Fluorophenyl)tryptamine
Combine LiAlH4 (2.66 g, 70.17 mmol) and dry THF (70.0 ml) and cool the suspension in an ice bath. Add dropwise a solution of 5-(4-fluorophenyl)-3-(2-nitrovinyl)-1H-indole (3.30 g, 11.69 mmol) in dry THF (30.0 ml). Heat to reflux. After 1 hour, cool to ambient temperature and stir. After 15 hours, quench with saturated Na2SO4 (100 ml/mol) and stir at ambient temperature. After 1 hour, filter, rinse the precipitate with THF, and evaporate the filtrate to residue. Chromatograph the residue on silica gel eluting with dichloromethane/2N NH3(methanol) (80/20) to give the title compound. Prepare the HCl salt in diethyl ether: mp>250° C. MS (ACPI): m/e 255.0 (M+1). Analysis for C16H16ClFN2: Calcd: C, 66.09; H, 5.55; N, 9.63; found: C, 65.78; H, 5.48; N, 9.58.

reactant | LiAlH4 | 70.17 mmol, 2.66 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 5-(4-fluorophenyl)-3-(2-nitrovinyl)-1H-indole | 11.69 mmol, 3.30 g | FC1=CC=C(C=C1)C=1C=C2C(=CNC2=CC1)C=C[N+](=O)[O-] | C16H11FN2O2
solvent | THF | 30.0 ml | C1CCOC1 | C4H8O
solvent | THF | 70.0 ml | C1CCOC1 | C4H8O
product | 5-(4-Fluorophenyl)tryptamine | FC1=CC=C(C=C1)C1=CC=C2NC=C(CCN)C2=C1 | C16H15FN2
